US07026321B2
Thionyl chloride (1.0 M in CH2Cl2, 6.0 ml, 6.0 mmol) was added dropwise to a solution of ((R)-3-(4-fluorophenyl)-4,5-dihydroisoxazol-5-yl)methanol (1.1 g, 5.6 mmol) in methylene chloride (10 ml) at 0° C. for 1 hour. Then the reaction mixture was allowed to warm to room temperature over 6 hours. The product was isolated and purified by removal of solvent under reduced pressure, followed by preparative chromatography (1:9 MeOH:CH2Cl2) to yield (5R)-5-(chloromethyl)-3-(4-fluorophenyl)-4,5-dihydroisoxazole (1.0 g, 4.8 mmol) as a colorless oil.

reactant | Thionyl chloride | 6.0 mmol, 1.0 M, 6.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ((R)-3-(4-fluorophenyl)-4,5-dihydroisoxazol-5-yl)methanol | 5.6 mmol, 1.1 g | FC1=CC=C(C=C1)C1=NO[C@H](C1)CO | C10H10FNO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (5R)-5-(chloromethyl)-3-(4-fluorophenyl)-4,5-dihydroisoxazole | 4.8 mmol, 1.0 g | ClC[C@H]1CC(=NO1)C1=CC=C(C=C1)F | C10H9ClFNO
